US04820834
1,3-Dihydro-3-(RS)-(2-indolecarbonyloxy)-5-phenyl-2H-1,4-benzodiazepin-2-one
1,3-Dihydro-3-(RS)-hydroxy-5-phenyl-2H-1,4-benzodiazepin-2-one (100 mg, 0.398 mmol) was dissolved in CH2Cl2 (10 ml), treated with indole-2-carbonyl chloride (78.6 mg, 0.438 mmol) and 4-dimethylaminopyridine (DMAP, 53.5 mg, 0.438 mmol) and stirred 16 hrs. at 25° C. A second portion of indole-2-carbonylchloride (78.6 mg, 0.438 mmol and DMAP (53.5 mg, 0.438 mmol) was added and the reaction stirred an additional 24 hrs. Chromatography of the reaction mixture on silica gel (1% MeOH in CH2Cl2) gave the title compound (100 mg) as a white solid from MeCN: (m.p. 271°-273°).

reactant | 1,3-Dihydro-3-(RS)-hydroxy-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.398 mmol, 100 mg | OC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C15H12N2O2
reactant | indole-2-carbonyl chloride | 0.438 mmol, 78.6 mg | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
reactant | MeCN | CC#N | C2H3N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.438 mmol, 53.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | DMAP | 0.438 mmol, 53.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1,3-Dihydro-3-(RS)-(2-indolecarbonyloxy)-5-phenyl-2H-1,4-benzodiazepin-2-one | 100 mg | N1C(=CC2=CC=CC=C12)C(=O)OC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C24H17N3O3
